US08895547B2
N-(2,4-Dimethoxybenzyl)-1-(3-bromophenyl)ethanesulfonamide
Under inert gas, 3.50 g of C-(3-bromophenyl)-N-(2,4-dimethoxybenzyl)methanesulfonamide were initially charged in 40 ml of THF, and then, at a temperature of −76° C., 10.93 ml of a 1.6 N methyllithium solution in diethyl ether were added dropwise and the mixture was stirred for 5 minutes. After the addition of 1.24 g of methyl iodide, the reaction mixture was allowed to come to room temperature. The reaction solution was admixed with water and ethyl acetate, and the aqueous phase was reextracted with ethyl acetate. The combined organic phases were dried over MgSO4 and concentrated by rotary evaporation, and the residue was purified by means of normal phase chromatography using a Flashmaster with an n-heptane/ethyl acetate gradient. The product-containing fractions were combined and concentrated by rotary evaporation. This gave the product (2.83 g) with a molecular weight of 414.3 g/mol (C17H20BrNO4S).

reactant | C-(3-bromophenyl)-N-(2,4-dimethoxybenzyl)methanesulfonamide | 3.50 g | BrC=1C=C(C=CC1)CS(=O)(=O)NCC1=C(C=C(C=C1)OC)OC | C16H18BrNO4S
reactant | methyllithium | 1.6 N | C[Li]
reactant | methyl iodide | 1.24 g | CI | CH3I
reactant | water | O | H2O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2,4-Dimethoxybenzyl)-1-(3-bromophenyl)ethanesulfonamide | 2.83 g | COC1=C(CNS(=O)(=O)C(C)C2=CC(=CC=C2)Br)C=CC(=C1)OC | C17H20BrNO4S
